US08026257B2
tert-Butyl 4-(((7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
To a solution of tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (102 mg, 0.350 mmol) and 5-(bromomethyl)-7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole (113 mg, 0.318 mmol) in dimethylformamide (0.75 mL) at 0° C. was added sodium hydride (16.8 mg, 0.70 mmol). The resulting solution was stirred at at 0° C. for 30 min. The reaction was quenched by the cautious addition of saturated ammonium chloride and diluted with diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→25% EtOAc/Hex) gave 170 mg (94%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 7.99 (s, 1H), 7.31-7.40 (m, 4H), 7.25 (m, 1H), 7.21 (s, 1H), 6.79 (s, 1H), 5.70 (s, 2H), 4.37 (s, 2H), 3.73 (bs, 2H), 3.63 (m, 2H), 3.40 (s, 2H), 3.04 (m, 2H), 2.57 (s, 3H), 2.16 (m, 2H), 1.91 (m, 2H), 1.43 (s, 9H), 0.94 (m, 2H), −0.03 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 155.1, 149.2, 143.3, 132.5, 128.5, 128.1, 127.4, 126.3, 125.7, 122.9, 121.9, 116.1, 81.8, 79.3, 78.9, 73.8, 67.4, 41.8, 40.1 (br), 32.0, 28.6, 18.0, 17.2, −1.3.

reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 0.350 mmol, 102 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | 5-(bromomethyl)-7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | 0.318 mmol, 113 mg | BrCC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C15H23BrN2OSi
reactant | sodium hydride | 0.70 mmol, 16.8 mg | [H-].[Na+]
solvent | dimethylformamide | 0.75 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(((7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H47N3O4Si
